### PR TITLE
MCS AARCH64 AInvs

### PR DESCRIPTION
**Pull request by michaelmcinerney**

### CODE REVIEW

File: proof/invariant-abstract/AARCH64/ArchAInvs.thy [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+  apply (clarsimp simp: ct_in_state_def st_tcb_at_def obj_at_def)
+  done
+
+crunch vgic_update_lr
+  for schact_is_rct_ct_in_state_activatable[wp]: "\<lambda>s. schact_is_rct s \<longrightarrow> ct_in_state activatable s"
+  (simp: ct_in_state_def)
+
+lemma vgic_maintenance_schact_is_rct_ct_in_state_activatable[wp]:
+  "vgic_maintenance \<lbrace>\<lambda>s. schact_is_rct s \<longrightarrow> ct_in_state activatable s\<rbrace>"
+  supply if_split[split del]
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchAInvs.thy]: would prefer supply after unfolding for consistency with what we've seen in the general proof base

File: proof/invariant-abstract/AARCH64/ArchAInvs.thy [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+  "handle_hypervisor_fault t fault \<lbrace>\<lambda>s. schact_is_rct s \<longrightarrow> ct_in_state activatable s\<rbrace>"
+  supply if_split[split del]
+  by (cases fault; wpsimp)
+
+lemma set_vcpu_schact_is_rct_ct_in_state_activatable[wp]:
+  "set_vcpu ptr vcpu \<lbrace>\<lambda>s. schact_is_rct s \<longrightarrow> ct_in_state activatable s\<rbrace>"
+  unfolding set_vcpu_def
+  apply (wpsimp wp: set_object_wp_strong)
+  apply (clarsimp simp: ct_in_state_def st_tcb_at_def obj_at_def)
+  done
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchAInvs.thy:31]: opportunity for by or single line

File: proof/invariant-abstract/AARCH64/ArchAInvs.thy [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+  for schact_is_rct_ct_in_state_activatable[wp]: "\<lambda>s. schact_is_rct s \<longrightarrow> ct_in_state activatable s"
+  (simp: ct_in_state_def)
+
+lemma vgic_maintenance_schact_is_rct_ct_in_state_activatable[wp]:
+  "vgic_maintenance \<lbrace>\<lambda>s. schact_is_rct s \<longrightarrow> ct_in_state activatable s\<rbrace>"
+  supply if_split[split del]
+  unfolding vgic_maintenance_def
+  apply (wpsimp wp: thread_get_wp' | wp (once) hoare_drop_imps)+
+  apply (clarsimp simp: ct_in_state_def st_tcb_at_def obj_at_def split: if_splits)
+  done
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchAInvs.thy:43]: two line proof -> by

File: proof/invariant-abstract/AARCH64/ArchAcc_AI.thy [hunk 4]
```diff
@@ -2017,6 +2003,36 @@ lemma set_asid_pool_None_vspace_for_asid:
...
+  by (wp | wps)+
+
+lemma set_asid_pool_sch_act[wp]:
+  "set_asid_pool p ap \<lbrace>\<lambda>s. P (scheduler_action s)\<rbrace>"
+  including unfold_objects
+  by (wpsimp simp: set_asid_pool_def wp: set_object_wp)
+
+lemma set_asid_pool_fault_tcbs_valid_states_except_set[wp]:
+  "set_asid_pool p ap \<lbrace>fault_tcbs_valid_states_except_set T\<rbrace>"
+  by (wp fault_tcbs_valid_states_lift)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchAcc_AI.thy]: not sure how much it's worth it, but a bunch in this block look crunchable if the lifting rules are given as `wp:` (except maybe for `set_asid_pool_valid_replies` which uses wps)

File: proof/invariant-abstract/AARCH64/ArchAcc_AI.thy [hunk 5]
```diff
@@ -2783,6 +2800,43 @@ crunch store_pte
   for valid_cur_fpu[wp]: valid_cur_fpu
   (wp: valid_cur_fpu_lift)
 
+lemma set_pt_sc_at_pred_n[wp]:
+  "set_pt p pt \<lbrace>\<lambda>s. Q (sc_at_pred_n N proj P p' s)\<rbrace>"
+  including unfold_objects
+  by (wpsimp simp: set_pt_def sc_at_pred_n_def wp: set_object_wp)
+
+lemma set_pt_replies_with_sc[wp]:
+  "set_pt p pt \<lbrace>\<lambda>s. P (replies_with_sc s)\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchAcc_AI.thy]: If you look below at `crunch store_pte`, it has `replies_with_sc[wp]: "λs. P (replies_with_sc s)"` as well as replies_blocked[wp]: "λs. P (replies_blocked s)" etc.
I would attempt to do some crunch consolidation (not sure if it can easily be done with the lemmas that use wps, but maybe there's a crunchable way for those as well)

File: proof/invariant-abstract/AARCH64/ArchArch_AI.thy [hunk 6]
```diff
@@ -671,74 +672,74 @@ lemma max_index_upd_no_cap_to:
...
-  apply (thin_tac "x = Some cap.NullCap" for x)+
-  apply (drule(1) caps_of_state_valid_cap[OF _ invs_valid_objs])
-  apply (intro conjI)
-    apply (clarsimp simp: valid_cap_def cap_aligned_def range_cover_full invs_psp_aligned
-                          invs_valid_objs pageBits_def)
-   apply (erule pspace_no_overlap_detype)
-  apply (auto simp: pageBits_def detype_clear_um_independent)
+  apply (rename_tac frame slot_cnode slot_idx parent_cnode parent_idx base)
+  apply (rule_tac S="word_size_bits \<le> pageBits \<and> pageBits \<le> word_bits
+                     \<and> pageBits \<le> 32
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchArch_AI.thy]: what is 32 here?

File: proof/invariant-abstract/AARCH64/ArchArch_AI.thy [hunk 7]
```diff
@@ -671,74 +672,74 @@ lemma max_index_upd_no_cap_to:
...
 
 lemma perform_asid_control_invocation_st_tcb_at:
-  "\<lbrace>st_tcb_at (P and (Not \<circ> inactive) and (Not \<circ> idle)) t
-    and ct_active and invs and valid_aci aci\<rbrace>
+  "\<lbrace>pred_tcb_at proj P t
+      and ex_nonz_cap_to t
+      and ct_active
+      and (\<lambda>s. scheduler_action s = resume_cur_thread)
+      and invs
+      and valid_aci aci\<rbrace>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchArch_AI.thy]: indentation: I'm reasonably sure the `and` should go under `pred_` since that's the point of operator wrapping on left

File: proof/invariant-abstract/AARCH64/ArchArch_AI.thy [hunk 8]
```diff
@@ -671,74 +672,74 @@ lemma max_index_upd_no_cap_to:
...
+  by (auto simp: pred_tcb_at_def cspace_agnostic_pred_def tcb_to_itcb_def
+         intro!: perform_asid_control_invocation_non_cspace_obj_at)
+
+lemma perform_asid_control_invocation_sc_at_pred_n:
+  "\<lbrace>sc_at_pred_n N proj P scp
+      and ex_nonz_cap_to scp
+      and ct_active
+      and (\<lambda>s. scheduler_action s = resume_cur_thread)
+      and invs
+      and valid_aci aci\<rbrace>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchArch_AI.thy]: indentation: `and` should be under `sc_at`

File: proof/invariant-abstract/AARCH64/ArchArch_AI.thy [hunk 9]
```diff
@@ -1713,20 +1718,40 @@ lemma perform_vcpu_invocation_pred_tcb_at[wp_unsafe]:
...
 lemma arch_pinv_st_tcb_at:
-  "\<lbrace>invs and valid_arch_inv ai and ct_active and
-    st_tcb_at (P and (Not \<circ> inactive) and (Not \<circ> idle)) t\<rbrace>
+  "\<lbrace>pred_tcb_at proj P t
+      and ex_nonz_cap_to t
+      and ct_active
+      and (\<lambda>s. scheduler_action s = resume_cur_thread)
+      and invs
+      and valid_arch_inv ai
+      and K (proj_not_field proj tcb_arch_update)\<rbrace>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchArch_AI.thy]: indentation, `and` should be under `pred_`

File: proof/invariant-abstract/AARCH64/ArchBCorres2_AI.thy [hunk 10]
```diff
@@ -10,128 +10,4 @@ imports
...
-
-lemma handle_event_bcorres[wp]: "bcorres (handle_event e) (handle_event e)"
-  apply (cases e)
-  apply (simp add: handle_send_def handle_call_def handle_recv_def handle_reply_def handle_yield_def
-                   handle_interrupt_def Let_def arch_mask_irq_signal_def
-         | intro impI conjI allI | wp | wpc)+
-  done
-
-end
-
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchBCorres2_AI.thy:136]: has there been a change to the fate of ArchBCorres2_AI? there's nothing in PR description or commit description, but I'm also not entirely up to date on whether RISCV64 has had this already done to it

File: proof/invariant-abstract/AARCH64/ArchCSpace_AI.thy [hunk 11]
```diff
@@ -49,6 +49,33 @@ lemma getActiveIRQ_wp [CSpace_AI_assms]:
   apply (clarsimp simp: irq_state_independent_A_def in_monad return_def split: if_splits)
   done
 
+lemma getCurrentTime_wp[CSpace_AI_assms]:
+  "time_state_independent_A P \<Longrightarrow> getCurrentTime_independent_A P \<Longrightarrow>
+   \<lbrace>P\<rbrace> do_machine_op getCurrentTime \<lbrace>\<lambda>_. P\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchCSpace_AI.thy]: while we're here, use inv notation?

Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchCSpace_AI.thy]: and also get rid of ==> ==>

File: proof/invariant-abstract/AARCH64/ArchDetSchedDomainTime_AI.thy [hunk 12]
```diff
@@ -38,6 +42,10 @@ crunch
 crunch handle_spurious_irq
   for scheduler_action[wp, DetSchedDomainTime_AI_assms]: "\<lambda>s. P (scheduler_action s)"
 
+declare init_arch_objects_exst[DetSchedDomainTime_AI_assms]
+        arch_get_sanitise_register_info_inv[DetSchedDomainTime_AI_assms]
+        arch_post_modify_registers_inv[DetSchedDomainTime_AI_assms]
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchDetSchedDomainTime_AI.thy]: would prefer `lemmas [DetSchedDomainTime_AI_assms] =`, less repetitive

File: proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy [hunk 13]
```diff
@@ -26,11 +26,14 @@ lemma vcpu_switch_valid_list[wp, Deterministic_AI_assms]:
...
-  cap_swap_for_delete,set_cap,finalise_cap,arch_get_sanitise_register_info,
+  cap_swap_for_delete, set_cap, finalise_cap, arch_get_sanitise_register_info,
   arch_post_modify_registers, arch_post_set_flags
   for valid_list[wp, Deterministic_AI_assms]: valid_list
-  (wp: crunch_wps simp: unless_def crunch_simps)
+  (wp: crunch_wps hoare_vcg_all_lift simp: unless_def crunch_simps)
+
 declare get_cap_inv[Deterministic_AI_assms]
+        arch_get_sanitise_register_info_inv[Deterministic_AI_assms]
+        arch_post_modify_registers_inv[Deterministic_AI_assms]
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy]: would prefer `lemmas [Deterministic_AI_assms] =` here, less repetitive

File: proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy [hunk 14]
```diff
@@ -76,9 +79,17 @@ crunch handle_invocation
...
    ignore: without_preemption syscall)
 
-crunch handle_recv, handle_yield, handle_call
+crunch receive_ipc
+  for valid_list[wp]: valid_list
+  (wp: hoare_drop_imps hoare_vcg_if_lift2)
+
+crunch handle_recv
+  for valid_list[wp, Deterministic_AI_assms]: valid_list
+  (wp: hoare_drop_imps hoare_vcg_if_lift2 simp: Let_def whenE_def)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy:85]: given that both of these crunches already have hoare_drop_imps, I would expect they are combinable

File: proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy [hunk 15]
```diff
@@ -96,12 +107,22 @@ lemma handle_interrupt_valid_list[wp, Deterministic_AI_assms]:
...
+lemmas [machine_ops_last_machine_time'] = storeWord_machine_times ackInterrupt_machine_times
+
+crunch
+  storeWord, clearMemory, freeMemory, ackDeadlineIRQ, ackInterrupt, maskInterrupt, setDeadline,
+  cleanCacheRange_RAM, cleanCacheRange_PoU
+  for machine_times[wp, machine_ops_last_machine_time']: "\<lambda>ms. P (last_machine_time ms) (time_state ms)"
+  (wp: crunch_wps simp: crunch_simps ignore_del: storeWord maskInterrupt clearMemory)
+
+lemmas machine_ops_last_machine_time = machine_ops_last_machine_time'
+lemmas arch_machine_ops_last_machine_time = arch_machine_ops_last_machine_time'
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy:122]: I'm guessing this is taken from RISCV64, but does anyone happen to know what they're doing here? Is it an example of working around the named_theorems access limitations from outside a locale? Given we're not *in* a locale, I am wondering why do this. Doing a `lemmas` on a `named_theorems` freezes the set, but given we've barely put anything in the set, this looks equivalent to:

```
lemmas machine_ops_last_machine_time = storeWord_machine_times ackInterrupt_machine_times
lemmas arch_machine_ops_last_machine_time = TrueI (* since I don't think blank lemmas is possible *)
```
So either we want a dynamic set, at which point freezing it into lemmas seems strange, or we want a frozen set, in which case having the named_theorems is strange. Either way, strange.
@lsf37 maybe you know something

File: proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy [hunk 16]
```diff
@@ -17,10 +17,12 @@ crunch_ignore (empty_fail)
   (add: pt_lookup_from_level)
 
 crunch
-  load_word_offs, get_mrs
+  loadWord, load_word_offs, store_word_offs, storeWord, getRestartPC, get_mrs, setRegister
   for (empty_fail) empty_fail[wp, EmptyFail_AI_assms]
 
 declare loadWord_empty_fail[EmptyFail_AI_assms]
+declare storeWord_empty_fail[EmptyFail_AI_assms]
+declare setRegister_empty_fail[EmptyFail_AI_assms]
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy]: `lemmas` again, less repetitiveness

Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy]: also given you're crunching empty_fail with a `empty_fail[wp, EmptyFail_AI_assms]` this should already be in `EmptyFail_AI_assms` at least for loadWord, storeWord *and* setRegister, unless the above crunch doesn't prove it, in which case it's puzzling why it looks like it does

File: proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy [hunk 17]
```diff
@@ -195,6 +200,8 @@ crunch possible_switch_to, handle_event, activate_thread, maybe_handle_interrupt
          page_table_invocation.splits page_invocation.splits asid_control_invocation.splits
          asid_pool_invocation.splits arch_invocation.splits irq_state.splits syscall.splits)
 
+declare getRestartPC_empty_fail[EmptyFail_AI_assms]
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy:204]: again, we have above:
```
crunch
  loadWord, load_word_offs, store_word_offs, storeWord, getRestartPC, get_mrs, setRegister
  for (empty_fail) empty_fail[wp, EmptyFail_AI_assms]
```
so why is this declare needed?
If I were you I'd check the declares you added in this PR to see whether they are needed (and if copied from RISCV64, the ones there might be worth a cleanup), because I've spotted this in two places now.

File: proof/invariant-abstract/AARCH64/ArchInterrupt_AI.thy [hunk 18]
```diff
@@ -278,25 +275,23 @@ lemma handle_reserved_irq_invs[wp]:
...
-     apply (clarsimp simp: ex_nonz_cap_to_def invs_valid_objs)
-     apply (intro allI exI, erule cte_wp_at_weakenE)
-     apply (clarsimp simp: is_cap_simps)
-    apply (wpsimp wp: hoare_drop_imps resetTimer_invs_ARCH
-                simp: get_irq_state_def
-           | rule conjI)+
+   apply (wp dmo_maskInterrupt_invs maskInterrupt_invs_ARCH dmo_ackInterrupt
+             send_signal_interrupt_states
+          | wpc
+          | simp add: arch_mask_irq_signal_def when_def split del: if_split)+
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchInterrupt_AI.thy]: this looks like the proof took a step back technology wise; wp|wpc|simp should be handled by wpsimp these days; is this because we're transferring from RISCV64?

File: proof/invariant-abstract/AARCH64/ArchKernelInit_AI.thy [hunk 19]
```diff
@@ -112,8 +113,12 @@ lemma pspace_distinct_init_A:
...
                   split del: if_split cong: if_cong)
   apply (clarsimp simp: ineqs split: if_split_asm)
-    apply (simp add: bit_simps ineqs)
-   apply (simp add: bit_simps ineqs)
+        apply (simp add: bit_simps min_sched_context_bits_def ineqs split: if_splits)
+       apply (simp add: bit_simps ineqs)
+      apply (simp add: bit_simps ineqs min_sched_context_bits_def split: if_splits)
+     apply (simp add: bit_simps ineqs)
+    apply (simp add: bit_simps min_sched_context_bits_def ineqs)
+   apply (simp add: bit_simps min_sched_context_bits_def ineqs)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchKernelInit_AI.thy:121]: this looks collapsible, maybe a `; solves <...>?` after the splitting clarsimp above?

File: proof/invariant-abstract/AARCH64/ArchSchedule_AI.thy [hunk 20]
```diff
@@ -46,14 +61,28 @@ lemma valid_asid_map_arch_arm_current_fpu_owner_update[simp]:
   "valid_asid_map (s\<lparr>arch_state := arch_state s\<lparr>arm_current_fpu_owner := x\<rparr>\<rparr>) = valid_asid_map s"
   by (simp add: valid_asid_map_def)
 
+lemma arch_thread_set_sc_tcb_sc_at[wp]:
+  "arch_thread_set f tptr \<lbrace>sc_tcb_sc_at P t\<rbrace>"
+  unfolding arch_thread_set_is_thread_set
+  apply (wpsimp wp: thread_set_wp)
+  apply (clarsimp simp: sc_at_ppred_def obj_at_def get_tcb_def)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchSchedule_AI.thy:68]: 2 lines -> by

File: proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy [hunk 21]
```diff
@@ -96,12 +106,17 @@ lemma hh_invs[wp, Syscall_AI_assms]:
...
+  and cur_thread[wp, Syscall_AI_assms]: "\<lambda>s. P (cur_thread s)"
+  and pred_tcb_at[wp, Syscall_AI_assms]: "pred_tcb_at proj P t"
+
 end
 
 global_interpretation Syscall_AI?: Syscall_AI
 proof goal_cases
   interpret Arch .
-  case 1 show ?case by (unfold_locales; (fact Syscall_AI_assms)?)
+  case 1 show ?case by (unfold_locales; (fact Syscall_AI_assms | wpsimp)?)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy]: We had this discussion with @ryybrr and @lsf37 as well... the logic here should be as simple as possible; we're declaring an interface of requirements that are needed to satisfy the generic proof, and the arch side is supposed to clearly fulfil that interface. When you put logic like `wpsimp` in there, that's an indication that there is no clear mapping between the interface and a lemma which satisfies it. Which means if this line of proof breaks, good luck figuring out which lemma needs fixing for it to work again.

File: proof/invariant-abstract/AARCH64/ArchUntyped_AI.thy [hunk 22]
```diff
@@ -370,6 +372,44 @@ lemma set_cap_non_arch_valid_arch_state[Untyped_AI_assms]:
...
+  shows "set_object ptr ko \<lbrace>\<lambda>s. N (obj_at P p s)\<rbrace>"
+  apply (wpsimp wp: set_object_wp)
+  apply (erule rsubst[of N])
+  using assms
+  apply (clarsimp simp: obj_at_def)
+  done
+
+lemma init_arch_objects_obj_at_other[Untyped_AI_assms]:
+  "\<lbrakk>\<forall>ptr\<in>set ptrs. is_aligned ptr (obj_bits_api ty us); p \<notin> set ptrs\<rbrakk>
+    \<Longrightarrow> init_arch_objects ty dev ptr n us ptrs \<lbrace>\<lambda>s. N (obj_at P p s)\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchUntyped_AI.thy]: indentation of ==> looks off

File: proof/invariant-abstract/AARCH64/ArchVSpaceEntries_AI.thy [hunk 23]
```diff
@@ -262,59 +271,84 @@ lemma perform_page_table_valid_vspace_objs'[wp]:
...
 
+context
+notes if_cong[cong]
+begin
+
+crunch invoke_sched_context, invoke_sched_control_configure_flags
+  for valid_vspace_objs'[wp]: valid_vspace_objs'
+  (ignore: update_sk_obj_ref wp: crunch_wps hoare_vcg_all_lift simp: crunch_simps)
+
+end
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVSpaceEntries_AI.thy]: probably copied from RISCV64, but you should be aware there is new tech in crunch which lets it take cong rules, so you don't need the context/notes anymore

File: proof/invariant-abstract/AARCH64/ArchVSpace_AI.thy [hunk 24]
```diff
@@ -2800,6 +2824,36 @@ lemma set_vcpu_hyp_refs_of:
...
+  "set_vcpu p v \<lbrace>\<lambda>s. P (sc_replies_sc_at Q sc_ptr s)\<rbrace>"
+  unfolding set_vcpu_def
+  apply (wpsimp wp: set_object_wp_strong)
+  apply (erule rsubst[where P=P])
+  apply (clarsimp simp: sc_at_ppred_def obj_at_def split: if_splits)
+  done
+
+lemma set_vcpu_fault_tcbs_valid_states_except_set[wp]:
+  "set_vcpu p v \<lbrace>fault_tcbs_valid_states_except_set T\<rbrace>"
+  by (wp fault_tcbs_valid_states_lift)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVSpace_AI.thy]: can combine with set_vcpu crunches below

File: proof/invariant-abstract/AARCH64/ArchVSpace_AI.thy [hunk 25]
```diff
@@ -2800,6 +2824,36 @@ lemma set_vcpu_hyp_refs_of:
...
+  apply (clarsimp simp: sc_at_pred_n_def obj_at_def split: if_splits)
+  done
+
+crunch set_vcpu
+  for cur_sc[wp]: "\<lambda>s. P (cur_sc s)"
+  and scheduler_action[wp]: "\<lambda>s. P (scheduler_action s)"
+  and cur_sc_tcb[wp]: cur_sc_tcb
+  (rule: cur_sc_tcb_lift)
+
+crunch set_vcpu
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVSpace_AI.thy]: can combine these set_vcpu crunches

File: proof/invariant-abstract/AARCH64/Machine_AI.thy [hunk 26]
```diff
@@ -104,6 +108,20 @@ lemma getActiveIRQ_inv[wp]:
...
+
+lemma no_fail_maskInterrupt[wp]:
+  "no_fail \<top> (maskInterrupt irq bool)"
+  by (simp add: maskInterrupt_def)
+
+lemma no_fail_setDeadline: "no_fail \<top>(setDeadline t)"
+  by (simp add: setDeadline_def)
+
+lemma empty_fail_setDeadline: "empty_fail (setDeadline t)"
+  by (simp add: setDeadline_def)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/Machine_AI.thy:125]: while we're here: style: lemma statement on next line (no_fail_setDeadline too)

File: proof/invariant-abstract/AARCH64/Machine_AI.thy [hunk 27]
```diff
@@ -180,6 +194,9 @@ lemma no_irq_gets[simp, wp]:
   "no_irq (gets f)"
   by (simp add: no_irq_def)
 
+lemma no_irq_setDeadline: "no_irq (setDeadline t)"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/Machine_AI.thy]: style: statement on next line

File: proof/invariant-abstract/AInvsToplevel_AI.thy [hunk 28]
```diff
@@ -11,7 +11,7 @@
 
 theory AInvsToplevel_AI
 imports
-  AInvs
+  ArchAInvs
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AInvsToplevel_AI.thy:14]: I am a bit puzzled by how this worked before this change...

File: proof/invariant-abstract/Invariants_AI.thy [hunk 29]
```diff
@@ -4370,6 +4370,17 @@ lemma valid_machine_time_lift:
...
 
+lemma cur_sc_tcb_lift:
+  "\<lbrakk>\<And>P. f \<lbrace>\<lambda>s. P (cur_thread s)\<rbrace>; \<And>P. f \<lbrace>\<lambda>s. P (cur_sc s)\<rbrace>; \<And>P. f \<lbrace>\<lambda>s. P (scheduler_action s)\<rbrace>;
+    \<And>P t. f \<lbrace>sc_tcb_sc_at P t\<rbrace>\<rbrakk>
+   \<Longrightarrow> f \<lbrace>cur_sc_tcb\<rbrace>"
+  unfolding cur_sc_tcb_def
+  apply (rule hoare_lift_Pf2[where f=scheduler_action])
+   apply (rule hoare_lift_Pf2[where f=cur_sc])
+    apply (rule hoare_lift_Pf2[where f=cur_thread])
+     apply wpsimp+
```
Comment (Xaphiosis) [inline proof/invariant-abstract/Invariants_AI.thy:4381]: out of curiosity, does wps work here?

File: proof/invariant-abstract/RISCV64/ArchAInvs.thy [hunk 30]
```diff
@@ -0,0 +1,23 @@
...
+proof goal_cases
+  interpret Arch .
+  case 1 show ?case by (unfold_locales; (solves wpsimp)?)
+qed
+
+global_interpretation AInvs_AI_det_ext?: AInvs_AI_det_ext
+proof goal_cases
+  interpret Arch .
+  case 1 show ?case by (unfold_locales; wpsimp)
+qed
```
Comment (Xaphiosis) [inline proof/invariant-abstract/RISCV64/ArchAInvs.thy:21]: oh, it looks like ArchAInvs is a newly added file to both RISCV64 and AARCH64. This change in the hierarchy should really have been explained in the commit message, and maybe pointed out in the PR description so we wouldn't have to be surprised by it.

File: proof/invariant-abstract/TcbAcc_AI.thy [hunk 31]
```diff
@@ -743,6 +743,13 @@ lemma as_user_objs [wp]:
   apply (wpsimp simp: ran_tcb_cap_cases)+
   done
 
+lemma as_user_valid_tcbs[wp]:
+  "as_user ptr f \<lbrace>valid_tcbs\<rbrace>"
+  unfolding as_user_def
+  apply wpsimp
+  apply (fastforce simp: valid_tcbs_def get_tcb_ko_at valid_tcb_def tcb_cap_cases_def)
+  done
```
Comment (Xaphiosis) [inline proof/invariant-abstract/TcbAcc_AI.thy:751]: by

File: spec/abstract/Schedule_A.thy [hunk 32]
```diff
@@ -36,6 +36,9 @@ definition guarded_switch_to :: "obj_ref \<Rightarrow> (unit, 'z::state_ext) s_m
      scp \<leftarrow> assert_opt sc_opt;
      sched \<leftarrow> gets (schedulable thread);
      assert sched;
+     d \<leftarrow> gets cur_domain;
+     next_domain \<leftarrow> thread_get tcb_domain thread;
+     assert (next_domain = d);
```
Comment (Xaphiosis) [inline spec/abstract/Schedule_A.thy:43]: I am unclear as to the nature of these aspec changes. They are folded into a single commit with the AInvs update (which also combines RISCV64 and AARCH64 updates to the hierarchy into a single commit), and there's no mention of what was needed here. Asserts in ASpec are unusual, some might even say rare, because it's not really obvious why one would want them. I vaguely recall some discussion on mattermost, but this is not something that should only be on some chat somewhere if it's going into the repository.

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy [hunk 33]
```diff
@@ -13,72 +13,408 @@ context Arch begin arch_global_naming
...
+  done
+
+lemma update_time_stamp_valid_machine_time[wp, DetSchedAux_AI_assms]:
+  "update_time_stamp \<lbrace>valid_machine_time\<rbrace>"
+  unfolding update_time_stamp_def
+  apply (wpsimp simp: do_machine_op_def)
+  apply (fastforce simp: getCurrentTime_def elim: valid_machine_time_getCurrentTime)
+  done
+
+end
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: suggest end tag: (* Arch *)

File: proof/invariant-abstract/AARCH64/ArchTcb_AI.thy [hunk 34]
```diff
@@ -101,7 +100,7 @@ end
 
 global_interpretation Tcb_AI_1?: Tcb_AI_1
   where state_ext_t = state_ext_t
-  and is_cnode_or_valid_arch = is_cnode_or_valid_arch
+  and is_cnode_or_valid_arch = AARCH64.is_cnode_or_valid_arch
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchTcb_AI.thy:103]: I'm not clear on this; if the general interface requires this constant, then I'm guessing the constant should be requalified (but given the AARCH64 is added now, not its definition?). Is it requalified somewhere later? Is it defined in this file? If it's not defined in this file, then Tcb_AI should requalify it at the beginning. Without seeing the definition I'm not sure where the AARCH64 is coming from.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 35]
```diff
@@ -23222,13 +23232,18 @@ lemma send_signal_cur_sc_in_release_q_imp_zero_consumed:
   apply (case_tac "tcb_state tcb"; clarsimp simp: receive_blocked_def)
   done
 
+end
+
+context DetSchedSchedule_AI_handle_hypervisor_fault begin
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:23235]: is the `end` not the end of a `DetSchedSchedule_AI_handle_hypervisor_fault` already?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 36]
```diff
@@ -19047,49 +19063,83 @@ end
...
+  assumes handle_reserved_irq_cur_sc_in_release_q_imp_zero_consumed[wp]:
+    "\<And>irq.
+      \<lbrace>cur_sc_in_release_q_imp_zero_consumed
+       and ct_not_blocked_on_ntfn and ct_not_blocked_on_receive
+       and valid_release_q\<rbrace>
+      handle_reserved_irq irq
+      \<lbrace>\<lambda>_. cur_sc_in_release_q_imp_zero_consumed :: 'state_ext state \<Rightarrow> _\<rbrace>"
+  assumes handle_reserved_irq_vmt[wp]:
+    "\<And>irq P. handle_reserved_irq irq \<lbrace>\<lambda>s :: 'state_ext state. P (last_machine_time_of s) (cur_time s)\<rbrace>"
+  assumes arch_mask_irq_signal_vmt[wp]:
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:19122]: what is the significance of `_vmt` here and `_pnt` below?
also I'm confused by something: given that this PR adds these assumptions to DetSchedSchedule_AI for all architectures, but there is no change to RISCV64 ArchDetSchedSchedule_AI, how is RISCV64 now fulfilling these interface requirements?

**Comment by Xaphiosis** [comment]
I would have appreciated more guidance for the review via commit messages and the PR description, especially considering its size.

File: proof/invariant-abstract/AARCH64/ArchAInvs.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchAInvs.thy:31]: I personally don't like the two line `by` and I don't like to combine `obj_at_def` or similarly low-level rules into a `wpsimp`. Do we actually prefer `by` for these proofs that are two lines?

File: proof/invariant-abstract/AARCH64/ArchBCorres2_AI.thy (hunk 10 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchBCorres2_AI.thy:136]: We discussed this on Mattermost, and we decided that we would use the same approach for AARCH64 as we did for RISCV64 and leave it empty, and would resurrect it later on if necessary. I don't think anyone could remember why it's now empty.

File: proof/invariant-abstract/AARCH64/ArchInterrupt_AI.thy (hunk 18 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchInterrupt_AI.thy]: Yes this is from RISCV64. I can fix this up on both arches if people would like.

File: proof/invariant-abstract/AARCH64/ArchKernelInit_AI.thy (hunk 19 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchKernelInit_AI.thy:121]: Gerwin did this proof for me, so I should let him make the decision on this one.

File: proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy (hunk 21 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy]: I thought the other example recently was even more complicated that this one, and I thought this pattern was pretty common, but sure, I can get rid of these. But the `declare`s that you commented on were to ensure that only the `fact` worked. If we're happy with the `declare` or `lemmas` statements then it's easy to get this working. 

And in not knowing which lemma broke, are you thinking it would be hard to figure it out because `wpsimp` will apply sometimes but not solve the goal? If so, this could be avoided with a `solves wpsimp`.

File: proof/invariant-abstract/RISCV64/ArchAInvs.thy (hunk 30 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/RISCV64/ArchAInvs.thy:21]: I did mention this briefly on Mattermost but you're right, I should have added something about this to the commit message, and will add something.

File: spec/abstract/Schedule_A.thy (hunk 32 above)
Comment (michaelmcinerney) [reply spec/abstract/Schedule_A.thy:43]: As far as why one would want asserts, I might not be thinking of all use cases, but aren't they pretty much always used to provide further information in Hoare triples or to ensure that the specs are well-formed? This assert is to simplify the invariants we see in `ArchFPU_AI` and `ArchVCPU_AI` which want to know about the current domain, and by using the assert, we can remove mention of `valid_ready_qs` and `valid_sched` more generally from many of the proofs in that file: the `corres` rules for `guarded_switch_to` already have these invariants in their guards, so it cuts down on carrying these invariants through `schedule`.

Comment (michaelmcinerney) [reply spec/abstract/Schedule_A.thy:43]: But I can add something about this to the commit message. And as far as the commit structure goes, I lumped all of the changes for AInvs together because the changes for the other arches were just to get things working after the update for AARCH64. If I should separate them out, then I can do that.

File: proof/invariant-abstract/AARCH64/ArchTcb_AI.thy (hunk 34 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchTcb_AI.thy:103]: I was just following what happened in RISCV. I suppose during this work I assumed that we were happy with whatever was done for RISCV, but I guess a lot of AInvs for MCS was done with comparatively very little oversight. I know very little about `is_cnode_or_valid_arch`, but I can investigate this.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 36 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:19122]: `_vmt` is I think for `valid_machine_time` (another abbreviation I very much dislike) but I have no clue what `pnt` is. I kept the names because they're used quite a lot and I thought `crunch` actually uses the names to speed things up if it finds rules that have already been proven. I can change all of these if we'd like.

And for why RISCV64 fulfils all these interface requirements without needing to change the arch file, `handle_reserved_irq` and `handle_hypervisor_fault` and both just `return ()` for RISCV, and so we get all of these properties by just crunching `P`, as an `inv` rule.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 35 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:23235]: It was the `DetSchedSchedule_AI` locale before. Should I add tags to these? The blocks aren't especially long.

File: proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy (hunk 17 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy:204]: So `getRestartPC` is crunched for `empty_fail` in `Machine_AI`, way before this theory file, and the `crunch` therefore doesn't prove this rule here and won't add it to the `EmptyFail_AI_assms` set. It seems as though `crunch` won't provide a yellow warning when it's crunching `empty_fail`.

I'm not sure what the best approach to this would be. I suppose I should remove the `getRestartPC` from the `crunch` in this theory file and then do the `declare`.

File: proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy (hunk 16 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy]: Yeah this `crunch` isn't actually proving those rules here.

File: proof/invariant-abstract/AARCH64/ArchTcb_AI.thy (hunk 34 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchTcb_AI.thy:103]: So `is_cnode_or_valid_arch` is defined in this file. I'm not sure how best to handle this.

File: proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy (hunk 17 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy:204]: I would definitely not put into crunch stuff that isn't actually crunched. Corey explained to me that crunch does not warn on "nothing done for this constant" and it would be a lot of work to make it warn in that case.

The issue with those Machine_AI proofs shows up in Refine as well, for example:
```
arch_requalify_facts (* FIXME arch-split: from Machine_AI *)
  no_fail_getRestartPC
  no_fail_getRegister
  ...
```

I think the fact that Machine_AI is not interfaced in a comprehensive manner and we're both dealing with that aspect is something that should be fixed at some point. It looks like you're interfacing it rather than requalifying it for EmptyFail_AI (good, but at some point it would be good to have it for Machine_AI), which is why the assms need to be tagged here.

So the short version is yes, look over these in this PR and if they match your description, it sounds right to drop them from the crunch if they are proved elsewhere already, and use a `lemmas [whatever_assms] =` to tag them.

File: proof/invariant-abstract/AARCH64/ArchTcb_AI.thy (hunk 34 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchTcb_AI.thy:103]: If it is, then it's fine to leave like that. The "nice" way to do it would be to do an `arch_requalify_consts` before the interpretation, and then use the normal name without qualification, but that raises the question of whether it is requalified later. In this case, fine to leave it.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 35 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:23235]: I mean, I welcome all tags, especially in generic theories. It only makes sense to add them on stuff you've changed though, because AInvs didn't use tags, and in fact tags were an idea I found someone using in Refine and we re-discovered how much they help.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 36 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:19122]: Ahh, and the inv rules were already present in RISCV64 and in the right set? That's very lucky!

File: proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy (hunk 21 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy]: Yes, `lemmas` statements, especially close to or right above the interpretation that they're used for work quite well to show the reader what's going on (i.e. this was proved in another file, but needed to satisfy the interface here). If they are in the same file, they should get tagged properly.

File: proof/invariant-abstract/AARCH64/ArchAInvs.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchAInvs.thy:31]: I'll let @lsf37 comment, he's the one who taught me that tech.

File: proof/invariant-abstract/AARCH64/ArchArch_AI.thy (hunk 6 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchArch_AI.thy]: Turns out that we can make do with it being `word_bits` instead, in which case this conjunct is a duplicate of the one before and this one can be removed, with one more step in the proof.

File: spec/abstract/Schedule_A.thy (hunk 32 above)
Comment (Xaphiosis) [reply spec/abstract/Schedule_A.thy:43]: I mean, the commit would either be good to split off the part of the commit where you do the spec changes and explain that you're adding assertions to simplify carrying whatever-it-is through schedule in Hoare-style proofs... but it would also be good to see details in a comment above the assertion in the spec, because it's not obvious to me, and even a little hard to follow your explanation when it's in a comment like that.

While your explanation of assertions makes sense, the way we historically used them was to work around the mechanism of not having assertions in C, i.e. putting assertions into the Haskell. Then it turned out that Dan Was Right(tm), and what we should've been doing was crossing info from AInvs to Haskell to satisfy the assertions, and then using the assertions instead of invariants in Refine and for wp proofs.
So that leaves ASpec on its own. If you assert something there, there's only the requirement. It can't get crossed in from anywhere, so in the overall proof it appears either redundant or out-of-thin-air, which is why it rarely happens and is also not likely to happen a lot in the future. Now, it seems that in your case it *is* redundant in the sense that you can derive on the abstract side during refinement from only the spec and the invariants(?), but in a *useful* way which justifies its existence. That's the part I want to see written down, for future WTF moments and even current understanding.

File: proof/invariant-abstract/AARCH64/ArchArch_AI.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchArch_AI.thy]: I'd prefer that, especially if that step doesn't have magic numbers :)

File: proof/invariant-abstract/AARCH64/ArchAcc_AI.thy (hunk 4 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchAcc_AI.thy]: This can be improved a bit, but then I can't remove those with `wps` and then a separate `crunch` block is needed.

Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchAcc_AI.thy]: Actually, I prove that `set_asid_pool` preserves all properties of the scheduler action, then I do the `crunch` then the proof with `wps`. This seems like the best I can do.

File: proof/invariant-abstract/Invariants_AI.thy (hunk 29 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/Invariants_AI.thy:4381]: Can't get that to work, unfortunately. `cur_sc_tcb` is a bit complicated

```
sc_tcb_sc_at
       (λt. scheduler_action s = resume_cur_thread ⟶ t = Some (cur_thread s))
       (cur_sc s) s
```

and will get stuck easily.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 36 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:19122]: Yep. It took me a little while to get these right across the two architectures, because for AARCH64, for at least one of these invariants, it's not needed in the precondition and can be established in the postcondition. But then that broke RISCV64. But it all worked out well in the end.

File: spec/abstract/Schedule_A.thy (hunk 32 above)
Comment (michaelmcinerney) [reply spec/abstract/Schedule_A.thy:43]: I have added a small comment to the spec explaining that the assert is for the invariants for VCPUs and FPUs. 

As for splitting the commits, the spec change was made in order to improve the AARCH64 proof, so to me it seems a bit strange to split that off, but maybe I can split it off and then say that this is done in anticipation of improving the AARCH64 proofs.

**Comment by michaelmcinerney** [comment]
Force pushed to add to the commit message of the main commit, though all changes to the diff have been kept to a separate commit which I'll squash.

File: proof/invariant-abstract/AARCH64/ArchAInvs.thy (hunk 2 above)
Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchAInvs.thy:31]: What I thought the policy was on compound `by`: allowed but not required. For some proofs it's nice, I tend to do it, because it increases concurrency, but it's not like a one-liner that definitely should be a `by`.

Generally I would not put `obj_at_def` etc into a `wpsimp`, but if it lets me produce a nice small one-line `by` proof I do sometimes do it. It mostly depends on whether you ever might want to see what is going on after `wpsimp`. Often that is entirely uninteresting, but sometimes there is a bit more there and I might want to be able to see that step in the future.

File: proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy (hunk 15 above)
Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy:122]: I do not, I'm also curious what is going on in this one. Are we satisfying some interface with the names maybe?

File: proof/invariant-abstract/AARCH64/ArchKernelInit_AI.thy (hunk 19 above)
Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchKernelInit_AI.thy:121]: The `;` approach doesn't work because the `if_splits` doesn't play well with the other 3 goals. It's possible that the last 3 could be collapsed with a +, but I'm not sure it helps with maintenance. They are all proving different things, they just happen to have the same proof text.

File: proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy (hunk 21 above)
Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy]: +1 from me. It's better to keep the interface explicit and the interpretation trivial. Debugging large interpretations is super annoying then things break.

File: proof/invariant-abstract/RISCV64/ArchAInvs.thy (hunk 30 above)
Comment (lsf37) [reply proof/invariant-abstract/RISCV64/ArchAInvs.thy:21]: I forgot what we discussed on MM there. Why are we changing the hierarchy?

File: proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy (hunk 15 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchDeterministic_AI.thy:122]: This was just all copied from RISCV64 but I've had a bit of a look. 

I don't think these are used in an arch interface anywhere. They seem to be used in `DetSchedInvs` to provide invariants lemmas for `valid_sched_pred_strong P` for various `do_machine_op` functions. But it doesn't quite work out that nicely, because the `lemmas` statements will result in an implication. Just slightly rearranging some lifting rules, we can get the invariant lemmas for these `do_machine_op` functions. I'll include this in the next push.

File: spec/abstract/Schedule_A.thy (hunk 32 above)
Comment (lsf37) [reply spec/abstract/Schedule_A.thy:43]: Like I said on MM, it is very unusual for us to have asserts in ASpec. This thing started mostly in MCS, and some (many?) produced a lot more work and were then removed again. There were multiple reasons they were added: not knowing what asserts are for and just adding them because they were in Haskell, wanting to finally finish AInvs and taking shortcuts (because you don't have to prove in AInvs what is asserted), and the only legitimate one: saving overall work by consciously shifting something from AInvs to Refine when it is hard to prove in AInvs but easier to prove in Refine.

As far as I can see, you are in that final case, but each assert in ASpec really needs a comment that justifies why it is there. They are not "obviously good" like they are in Haskell.

File: proof/invariant-abstract/RISCV64/ArchAInvs.thy (hunk 30 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/RISCV64/ArchAInvs.thy:21]: I didn't really discuss it on MM, really, I just mentioned that I had introduced an `ArchAInvs` theory files. But now that we have `handle_hypervisor_fault` and `handle_reserved_irq` being not just a `return ()` on AARCH64, we needed a proper interface for `AInvs`. So I introduced the standard pairing of a regular `state_ext` and `det_ext` locale, as we do in `DetSchedSchedule` for this. It's trivial on both ARM and RISCV64, actually, but needs a few lemmas for AARCH64.

As far as how the imports work, I thought it was following along with what we already have, and imports `ArchAInvs` rather than the top level file. This issue came up for Raf recently, and I followed what was suggested there.

**Comment by lsf37** [comment]
We seem to somehow have developed a habit of not providing a PR description. A PR description is actually required by the [general contribution rules](https://sel4.systems/Contribute/pull-requests.html) and we can't expect other contributors to follow them if we do not do so ourselves. So we should really get back to that. Even if they are just a copy of the commit messages, that already helps reviewers to get an overview, but ideally they should usually not be just that. For something small, fine, but for something large like this, they should summarise and point out the overall theme of the PR, alert reviewers to what is going at a larger level, point out context people should be aware of etc.

For instance in this PR, I happen to know that AARCH4 arch files existed here before and the diff mostly consists of fixing those with as much borrowed form working RISCV64 as possible. But I don't think Corey or Raf knew that. This is important context for figuring out why things are the way they are, and it enables you to be on the lookout for RISCV things that maybe slipped in and don't fit for AARCH64, etc.

File: spec/abstract/Schedule_A.thy [hunk 37]
```diff
@@ -36,6 +36,11 @@ definition guarded_switch_to :: "obj_ref \<Rightarrow> (unit, 'z::state_ext) s_m
      scp \<leftarrow> assert_opt sc_opt;
      sched \<leftarrow> gets (schedulable thread);
      assert sched;
```
Comment (lsf37) [inline spec/abstract/Schedule_A.thy:38]: wow this whole thing is full of `assert`. I guess they are all about scheduling predicates in the end and allow deferring things to `DetSchedSchedule` etc, but maybe that is not actually a good thing. Not something to address now, but I have the feeling it is something we should investigate once we are done.

File: spec/abstract/Schedule_A.thy [hunk 38]
```diff
@@ -36,6 +36,11 @@ definition guarded_switch_to :: "obj_ref \<Rightarrow> (unit, 'z::state_ext) s_m
...
+     \<comment> \<open>to simplify the proofs of the invariants related to VCPUs and FPUs, we assert that the
+         thread that we switch to is in the current domain.\<close>
```
Comment (lsf37) [inline spec/abstract/Schedule_A.thy:40]: Following on from my comment, as written here, this is not a good enough reason to add an assert in ASpec, and it is in fact a red flag, because wanting AInvs to be simpler at the cost of Refine being harder is the wrong direction. But I don't think that is actually happening for this one. At least according to what I remember, we do have more context in Refine and it does save overall work, not just work in AInvs.

File: proof/refine/RISCV64/Refine.thy [hunk 39]
```diff
@@ -14,6 +14,7 @@ imports
   ADT_H
   InitLemmas
   PageTableDuplicates
+  AInvs.ArchAInvs
```
Comment (lsf37) [inline proof/refine/RISCV64/Refine.thy]: Did we really discuss this? This is not a good place to re-include an AInvs theory context. If there is any simp and other setup that relies on lemmas being removed, this would reintroduce them, so we generally try to avoid this pattern. AInvs theory dependencies should all be at the bottom somewhere in BaseRefine.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 40]
```diff
@@ -19465,17 +19512,25 @@ lemma ipc_queued_thread_state_if[simp]:
   "ipc_queued_thread_state (if r then Restart else Inactive) = False"
   by simp
 
+(* FIXME: crunch call stack should only display on failure *)
+crunch finalise_cap
```
Comment (lsf37) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy]: what's happening on this one? Is crunch displaying a call stack?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 41]
```diff
@@ -2238,6 +2238,21 @@ abbreviation ct_ready_if_schedulable where
 
 lemmas ct_ready_if_schedulable_def = ct_ready_if_schedulable_2_def
 
+lemma ct_ready_if_schedulable_streng[elim!]:
```
Comment (lsf37) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:2241]: I'm surprised there is so much change in the generic DetSchedSchedule, I'd have expected some additions to the interface and the corresponding tweaks to that, but there seems to be more happening.

Can you comment on what that is? Or is it just that this theory is so large that this in fact just fallout from interface tweaks?

File: spec/abstract/Schedule_A.thy (hunk 38 above)
Comment (michaelmcinerney) [reply spec/abstract/Schedule_A.thy:40]: If you don't like this comment, then I'm not sure what to say here. I can mention that the proofs we currently have in Refine mean that this assert does not make Refine more difficult, but it seems strange to me to say that in a comment in the aspec.

I can certainly remove the assert given that it's so controversial. But our proofs for `valid_ready_qs` and `valid_sched` are very poor in this part of the kernel and it would be a lot more work to carry these properties through the invariants we have in `ArchFPU_AI` and `ArchVCPU_AI`.

File: proof/refine/RISCV64/Refine.thy (hunk 39 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Refine.thy]: As I said in another comment on this PR, I only briefly mentioned that I had introduced this new theory file. Please let me know exactly where where it should be imported.

File: proof/invariant-abstract/DetSchedInvs_AI.thy [hunk 42]
```diff
@@ -3441,6 +3446,22 @@ lemma ct_in_cur_domain_lift_pre_conj:
...
+lemma thread_set_in_cur_domain_lift:
+  "(\<And>tcb. tcb_domain (f tcb) = tcb_domain tcb)
+   \<Longrightarrow> thread_set f tptr \<lbrace>\<lambda>s. P (in_cur_domain t s)\<rbrace>"
+  apply (wpsimp wp: thread_set_wp)
+  apply (clarsimp simp: in_cur_domain_def obj_at_kh_kheap_simps etcb_at'_def vs_all_heap_simps)
+  done
+
+lemma thread_set_etcb_domain:
+  "(\<And>P tcb. P (tcb_domain (f tcb)) = (P (tcb_domain tcb) :: bool))
+   \<Longrightarrow> thread_set f t' \<lbrace>etcb_at (\<lambda>t. P (etcb_domain t)) t\<rbrace>"
```
Comment (lsf37) [inline proof/invariant-abstract/DetSchedInvs_AI.thy:3358]: This does make me want to revisit those `etcb` things again. But not today :)

File: proof/invariant-abstract/DetSchedInvs_AI.thy [hunk 43]
```diff
@@ -3542,6 +3563,57 @@ lemma valid_sched_lift_pre_conj:
...
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (sc_tcbs_of s)\<rbrace>"
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (cur_thread s)\<rbrace>"
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (release_queue s)\<rbrace>"
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (scheduler_action s)\<rbrace>"
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (tcb_sts_of s)\<rbrace>"
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (tcb_scps_of s)\<rbrace>"
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (tcb_faults_of s)\<rbrace>"
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (sc_refill_cfgs_of s)\<rbrace>"
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (sc_replies_of s)\<rbrace>"
+    shows "\<lbrace>\<lambda>s. valid_sched_pred_strong P s\<rbrace> f \<lbrace>\<lambda>rv. valid_sched_pred_strong P\<rbrace>"
```
Comment (lsf37) [inline proof/invariant-abstract/DetSchedInvs_AI.thy]: the `shows` indent is off

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 40 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy]: This is copied from another `crunch` for `finalise_cap` for a similar predicate. This does display the usual `crunching constant` and `found a rule for this constant`. I can remove these comments if preferred.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 41 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:2241]: Most of the changes were because of the `DetSchedSchedule_AI_handle_hypervisor_fault` locale. It seems as though there was some attempt to make sure that the assumptions in that locale would suit an arch dependent function that did include something like `handle_fault`, but in some places, it assumed that `handle_hypervisor_fault` and `handle_reserved_irq` would preserve a lot of invariants very easily. This is true for ARM and RISCV because those functions are noops, but for AARCH64 they include `handle_fault`.

File: proof/invariant-abstract/AARCH64/ArchCNodeInv_AI.thy [hunk 44]
```diff
@@ -801,7 +761,10 @@ context Arch begin arch_global_naming
 
 lemma finalise_cap_rvk_prog [CNodeInv_AI_assms]:
    "finalise_cap cap f \<lbrace>\<lambda>s. revoke_progress_ord m (\<lambda>x. map_option cap_to_rpo (caps_of_state s x))\<rbrace>"
-  by (cases cap; wpsimp wp: suspend_rvk_prog deleting_irq_handler_rvk_prog)
+  apply (case_tac cap; simp add: liftM_def)
+         apply (wp suspend_rvk_prog deleting_irq_handler_rvk_prog get_simple_ko_wp gts_wp
+                | clarsimp simp: is_final_cap_def comp_def | wpc)+
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchCNodeInv_AI.thy]: Is this a copy of something old? It looks like it should be `wpsimp`

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 41 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:2241]: I can certainly say in the commit message that this locale was changed significantly to accommodate the arch dependent functions that do modify the state and include `handle_fault`.

File: proof/invariant-abstract/AARCH64/ArchCNodeInv_AI.thy (hunk 44 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchCNodeInv_AI.thy]: Yes, copied from RISCV. Shall I improve this on both architectures?

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy [hunk 45]
```diff
@@ -13,72 +13,408 @@ context Arch begin arch_global_naming
...
+  "set_pt ptr pt \<lbrace>\<lambda>s. P (eps_of s)\<rbrace>"
+  by (set_object_easy_cases def: set_pt_def)
+
+lemma set_pt_ntfns_of[wp]:
+  "set_pt ptr pt \<lbrace>\<lambda>s. P (ntfns_of s)\<rbrace>"
+  by (set_object_easy_cases def: set_pt_def)
+
+lemma set_pt_tcbs_of[wp]:
+  "set_pt ptr pt \<lbrace>\<lambda>s. P (tcbs_of s)\<rbrace>"
+  by (set_object_easy_cases def: set_pt_def)
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: These should live somewhere high up, probably ArchAcc where the other set_pt/set_pte preservation theorems are. If the other ones are not using `set_object_easy_cases` in that theory yet, we should probably add a FIXME to them so we update them later at some point.

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy [hunk 46]
```diff
@@ -13,72 +13,408 @@ context Arch begin arch_global_naming
...
+  "set_asid_pool ptr pool \<lbrace>\<lambda>s. P (eps_of s)\<rbrace>"
+  by (set_object_easy_cases def: set_asid_pool_def)
+
+lemma set_asid_pool_ntfns_of[wp]:
+  "set_asid_pool ptr pool \<lbrace>\<lambda>s. P (ntfns_of s)\<rbrace>"
+  by (set_object_easy_cases def: set_asid_pool_def)
+
+lemma set_asid_pool_tcbs_of[wp]:
+  "set_asid_pool ptr pool \<lbrace>\<lambda>s. P (tcbs_of s)\<rbrace>"
+  by (set_object_easy_cases def: set_asid_pool_def)
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: Same as for set_pt, these should move to ArchAcc

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy [hunk 47]
```diff
@@ -13,72 +13,408 @@ context Arch begin arch_global_naming
...
+  and ct[wp]: "\<lambda>s. P (cur_thread s)"
+  and valid_idle[wp, DetSchedAux_AI_assms]: valid_idle
+  (wp: crunch_wps unless_wp)
 
-crunch init_arch_objects
-  for valid_blocked[wp, DetSchedAux_AI_assms]: valid_blocked
-  (wp: valid_blocked_lift crunch_wps)
+lemma valid_machine_time_getCurrentTime[DetSchedAux_AI_assms]:
+  "valid_machine_time s \<Longrightarrow> (x, s') \<in> fst (getCurrentTime (machine_state s))
+   \<Longrightarrow> valid_machine_time_2 x (last_machine_time s')"
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: Probably copied from somewhere, should use [| .. |] brackets.

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy [hunk 48]
```diff
@@ -13,72 +13,408 @@ context Arch begin arch_global_naming
...
+lemma dmo_getCurrentTime_vmt_sp[wp, DetSchedAux_AI_assms]:
+  "\<lbrace>valid_machine_time\<rbrace>
+   do_machine_op getCurrentTime
+   \<lbrace>\<lambda>rv s. (cur_time s \<le> rv) \<and> (rv \<le> - getCurrentTime_buffer - 1)\<rbrace>"
+  supply minus_add_distrib[simp del]
+  apply (wpsimp simp: do_machine_op_def)
+  apply (clarsimp simp: valid_machine_time_def getCurrentTime_def in_monad)
+  apply (intro conjI)
+   apply (clarsimp simp: min_def, intro conjI impI)
+    subgoal
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: are these `subgoal` commands helping with anything? It looks like they could just be left out.

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy [hunk 49]
```diff
@@ -13,72 +13,408 @@ context Arch begin arch_global_naming
...
+     apply (rule order.strict_implies_order, assumption)
+     by (metis unat_minus_one_word word_le_nat_alt word_n1_ge)
+  apply (clarsimp simp: min_def, intro conjI impI)
+   subgoal
+     apply (rule preorder_class.eq_refl)
+     apply (subst group_add_class.diff_conv_add_uminus)
+     apply (subst minus_one_norm_num)
+     apply clarsimp
+     apply (insert getCurrentTime_buffer_no_overflow')
+     done
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: This looks strange, surely an `insert` can't solve a goal. Does the `done` do any assumption resolution or is the `insert` an accident?

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy [hunk 50]
```diff
@@ -13,72 +13,408 @@ context Arch begin arch_global_naming
...
+  subgoal for s
+    apply (subst (asm) linorder_class.not_le)
+    apply (rule_tac b="of_nat (unat (last_machine_time (machine_state s)) +
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: This one does refer to the `s`, but if that's the only surviving reason for `subgoal`, I would replace it with a `rename_tac`. This lemma is probably copied from RISCV, but it would be good to fix it up and maybe add a FIXME to also fit it up on RISCV.

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy [hunk 51]
```diff
@@ -13,72 +13,408 @@ context Arch begin arch_global_naming
...
    perform_asid_control_invocation aci
    \<lbrace>\<lambda>r s. st_tcb_at (Not \<circ> inactive) t s \<longrightarrow> etcb_at P t s\<rbrace>"
-  apply (simp add: perform_asid_control_invocation_def)
-  apply wpsimp
-       apply (wp hoare_imp_lift_something typ_at_pred_tcb_at_lift)[1]
-      apply (rule hoare_drop_imps)
-      apply (wp retype_region_etcb_at)+
-  apply simp
+  apply (cases aci, rename_tac frame slot parent base)
+  apply (simp add: perform_asid_control_invocation_def, thin_tac _)
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: The `thin_tac` does not look like it should be grouped with `simp`

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy (hunk 49 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: The previous line actually does solve all subgoals, but it will allow you to do the `insert`, so yes, it's an accident. I'll remove it.

File: proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy [hunk 52]
```diff
@@ -13,552 +13,905 @@ context Arch begin arch_global_naming
...
+  "set_vcpu ptr vcpu \<lbrace>\<lambda>s. P (eps_of s)\<rbrace>"
+  by (set_object_easy_cases def: set_vcpu_def)
+
+lemma set_vcpu_ntfns_of[wp]:
+  "set_vcpu ptr vcpu \<lbrace>\<lambda>s. P (ntfns_of s)\<rbrace>"
+  by (set_object_easy_cases def: set_vcpu_def)
+
+lemma set_vcpu_prios_of[wp]:
+  "set_vcpu ptr vcpu \<lbrace>\<lambda>s. P (prios_of s)\<rbrace>"
+  by (set_object_easy_cases def: set_vcpu_def)
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]: These should also be in ArchAcc (not entirely sure about `prios_of`, but wouldn't `tcbs_of` also match `prios_of`?)

File: proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy [hunk 53]
```diff
@@ -13,552 +13,905 @@ context Arch begin arch_global_naming
...
+                    simp: vs_all_heap_simps obj_at_kh_kheap_simps map_project_def etcbs_of_tcbs_def
+                          tcbs_of_kh_def opt_map_def tcb_of_def
+                   split: kernel_object.splits)
+  done
 
-crunch set_vcpu
-  for ready_queues[wp]: "\<lambda>s. P (ready_queues s)"
-  and cur_domain[wp]: "\<lambda>s. P (cur_domain s)"
+lemma set_vcpu_sc_tcbs_of[wp]:
+  "set_vcpu ptr vcpu \<lbrace>\<lambda>s. P (sc_tcbs_of s)\<rbrace>"
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy:54]: Hm, I was going to suggest `scs_of` but it's the heavy-weight projections and I'm not sure this will work. One more cleanup task we should put on our issue list somewhere.

File: proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy [hunk 54]
```diff
@@ -13,552 +13,905 @@ context Arch begin arch_global_naming
...
-  for valid_idle[wp, DetSchedSchedule_AI_assms]: "valid_idle"
+  for valid_idle[wp]: valid_idle
   (wp: crunch_wps simp: crunch_simps)
 
-crunch arch_prepare_next_domain, arch_prepare_set_domain
-  for scheduler_action[wp, DetSchedSchedule_AI_assms]: "\<lambda>s. P (scheduler_action s)"
-  (simp: Let_def)
+lemma set_vm_root_valid_blocked_ct_in_q [wp]:
+  "\<lbrace>valid_blocked and ct_in_q\<rbrace> set_vm_root p \<lbrace>\<lambda>_. valid_blocked and ct_in_q\<rbrace>"
+  by (wp | wpc | auto)+
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]: wpsimp? and probably invariant notation

File: proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy [hunk 55]
```diff
@@ -13,552 +13,905 @@ context Arch begin arch_global_naming
...
+lemma switch_to_idle_thread_ct_not_queued [wp]:
+  "\<lbrace>valid_ready_qs and valid_idle\<rbrace>
+   switch_to_idle_thread
+   \<lbrace>\<lambda>_ s. not_queued (cur_thread s) s\<rbrace>"
+  apply (simp add: switch_to_idle_thread_def arch_switch_to_idle_thread_def
+                   tcb_sched_action_def
+         | wp)+
+  apply (clarsimp simp: valid_sched_def valid_ready_qs_def valid_idle_def
+                        pred_tcb_at_def obj_at_def not_queued_def pred_map_simps vs_all_heap_simps,
+         fastforce)
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]: the `, fastforce` looks strange. Do we really want chaining here or should it just be another `apply` step?

File: proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy [hunk 56]
```diff
@@ -13,552 +13,905 @@ context Arch begin arch_global_naming
...
+
+crunch handle_hypervisor_fault
+  for consumed_time_bounded[wp]: consumed_time_bounded
+
+lemma handle_hypervisor_fault_scheduler_act_sane[wp]:
+  "\<lbrace>scheduler_act_sane and ct_not_blocked_on_ntfn and ct_not_blocked_on_receive\<rbrace>
+   handle_hypervisor_fault t fault
+   \<lbrace>\<lambda>_. scheduler_act_sane\<rbrace>"
+  supply if_split[split del]
+  by (cases fault; wpsimp)
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]:
```suggestion
  by (cases fault; wpsimp split_del: if_split)
```

Does it really not work with just `by (cases fault; wpsimp)`? I thought `wpsimp` removes `if_split` these days by default.

File: proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy [hunk 57]
```diff
@@ -13,552 +13,905 @@ context Arch begin arch_global_naming
...
-  "\<lbrace>valid_sched and invs and (\<lambda>s. irq \<in> non_kernel_IRQs \<longrightarrow> scheduler_act_sane s \<and> ct_not_queued s)\<rbrace>
+lemma vgic_maintenance_cur_sc_in_release_q_imp_zero_consumed[wp]:
+  "\<lbrace>cur_sc_in_release_q_imp_zero_consumed
+    and ct_not_blocked_on_ntfn and ct_not_blocked_on_receive
+    and valid_release_q\<rbrace>
+   vgic_maintenance
+   \<lbrace>\<lambda>_. cur_sc_in_release_q_imp_zero_consumed\<rbrace>"
+  unfolding vgic_maintenance_def
+  apply (clarsimp simp: get_tcb_queue_def)
+  apply (intro bind_wp[OF _ gets_sp] bind_wp[OF _ thread_get_sp] bind_wp[OF _ return_sp])
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]: I do not remember the other `vgic_maintenance` proofs needing forward steps in AARCH64. Is there something special going on for the predicate side that makes them necessary?

Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]: Actually, the `bind_wp[OF _ return_sp]` can be removed here. I didn't realise at the time, but what's really going on here is that `thread_get_inv` is in the `[wp]` set, and so we're losing information here. The forward stepping grabs all information and works nicely. I suppose `thread_get_inv` should be removed from the `[wp]` set. I can investigate whether it's in there currently.

I at first thought that it was better to use the strongest postcondition rules and then more safely use `hoare_drop_imps` (that is, we'd drop fewer antecedents by doing the `hoare_drop_imps` after the strongest postcondition rules) and I think that might still be a reasonable approach for these easy functions for which we do have sp rules, especially if we have a method to do this for us. But maybe others would disagree.

File: proof/refine/RISCV64/Refine.thy (hunk 39 above)
Comment (lsf37) [reply proof/refine/RISCV64/Refine.thy]: Wherever `AInvs.AInvs` is imported now. If the new `ArchAInvs` is the one that does the interpretation and produces the actual top-level theorem, then whatever imported `AInvs.AInvs` before will be expecting that kind of context.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 40 above)
Comment (lsf37) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy]: If it's just displaying the usual diagnostic messages then we should remove the comment, yes. The comment sounds like something is going on that the author didn't expect, like the call stack crunch prints when a proof fails.

It's possible that the original also doesn't do that any more. If you're up for it, it'd be great to track that down and remove it there as well if it's not longer happening, but if you want to keep it to this PR, then just removing here is fine.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 41 above)
Comment (lsf37) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:2241]: > but in some places, it assumed that `handle_hypervisor_fault` and `handle_reserved_irq` would preserve a lot of invariants very easily. This is true for ARM and RISCV because those functions are noops, but for AARCH64 they include `handle_fault`.

Ah, yes, of course, that makes a lot of sense, thank you. Mentioning that in the commit message would be great.

File: proof/invariant-abstract/AARCH64/ArchCNodeInv_AI.thy (hunk 44 above)
Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchCNodeInv_AI.thy]: Most important to do it here in the new setting (we're trying to keep AArch64 at least modern), but if you're up for it, improving it in RISCV64 as well would be great, too. It's Ok to keep it focussed on this PR, though, if you want.

File: proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy (hunk 57 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]: Having another look at this proof, I can make it fully backwards, but it seems to only work by doing a 

```
apply (wpsimp wp: rules | wp (once) hoare_drop_imps)+
```

step, which takes quite a long time (13 seconds). The next step solves the goal, so I could make it a double-headed `by` to end the proof, if that's preferred.

But I do think an sp method at the beginning of the proof could be a nice idea. It would be very similar to what we did in CRefine recently with the `ccorres_exec_l_pre` method. Maybe something for later.

Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]: 13 seconds is pretty long. Is the goal it produces particularly large? I'm not opposed to adding a `sp` method in general, sometimes it does avoid case explosion to move forward (and sometimes the opposite). But yes, better to leave that for later.

Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]: It's many moderately sized goals. This function has a bunch of machine ops and a `handle_fault` at the end, and we actually need to know that the `handle_fault` is called only when the current thread is schedulable, which is adding to the difficulty. I'll leave it with the long `by` proof for now, unless you think the original proof (which was very fast) is better.

Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchDetSchedSchedule_AI.thy]: Happy to leave it up to you. If you add a comment that the backward proof takes 13 sec instead, it'd be fine to leave in the forward proof. If it's via `by` it's also fine to leave in the pure backwards proof, it's not going to affect overall run time.

File: proof/invariant-abstract/AARCH64/ArchFinalise_AI.thy [hunk 58]
```diff
@@ -1001,26 +980,27 @@ lemma delete_asid_unreachable:
...
+  notes wps = hoare_drop_imp[where Q'="\<lambda>_. is_final_cap' cap" for cap]
+              valid_cap_typ  unmap_page_unreachable unmap_page_table_unreachable
+              delete_asid_unreachable
   shows
-    "\<lbrace>\<lambda>s. s \<turnstile> ArchObjectCap cap \<and>
-          x = is_final_cap' (ArchObjectCap cap) s \<and>
-          pspace_aligned s \<and> pspace_distinct s \<and>
-          valid_vspace_objs s \<and> valid_objs s \<and> valid_asid_table s \<and> valid_arch_caps s\<rbrace>
+    "\<lbrace>\<lambda>s. s \<turnstile> cap.ArchObjectCap cap \<and>
+          x = is_final_cap' (cap.ArchObjectCap cap) s \<and>
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchFinalise_AI.thy]: are these `cap.` actually needed? I have the feeling I removed them when I did the AARCH64 proofs.

File: proof/invariant-abstract/AARCH64/ArchFinalise_AI.thy [hunk 59]
```diff
@@ -1001,26 +980,27 @@ lemma delete_asid_unreachable:
...
+          pspace_aligned s \<and> pspace_distinct s \<and> valid_vspace_objs s \<and> valid_objs s \<and> valid_asid_table s \<and>
+          valid_arch_caps s\<rbrace>
      arch_finalise_cap cap x
-     \<lbrace>\<lambda>rv s. replaceable s sl (fst rv) (ArchObjectCap cap)\<rbrace>"
+     \<lbrace>\<lambda>rv s. replaceable s sl (fst rv) (cap.ArchObjectCap cap)\<rbrace>"
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchFinalise_AI.thy]: (also here if it turns out they can be left out)

File: proof/invariant-abstract/AARCH64/ArchInterruptAcc_AI.thy [hunk 60]
```diff
@@ -19,12 +19,18 @@ named_theorems InterruptAcc_AI_assms
...
+                   all_invs_but_valid_irq_states_for_def valid_irq_states_but_def
+                   valid_irq_masks_but_def valid_machine_state_def cur_tcb_def cur_sc_tcb_def
+                   valid_irq_states_def valid_irq_masks_def)
+
+lemma getCurrentTime_invs[wp]:
+  "do_machine_op getCurrentTime \<lbrace>invs\<rbrace>"
+  apply (simp add: getCurrentTime_def)
+  apply (wpsimp wp: dmo_invs)
+  apply (simp add: do_machine_op_def modify_def in_get bind_assoc get_def put_def gets_def in_bind
+                   split_def select_f_returns in_return)
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchInterruptAcc_AI.thy]: Something is funky in this one: `dmo_invs` eliminated `do_machine_op`, so we shouldn't need to unfold `do_machine_op_def`. We have unfolded `getCurrentTime_def`, so I guess the monad unfold hammer is addressing that, but we should have a `\in fst (f s)` kind of goal, so we should be using `in_monad` instead of all the `_def`. It's possible that doesn't quite work, but it'd be good to have a look.

File: proof/invariant-abstract/AARCH64/ArchKernelInit_AI.thy [hunk 61]
```diff
@@ -292,81 +297,149 @@ lemma pspace_in_kernel_window_init_A_st:
...
-   apply (clarsimp simp: if_live_then_nonz_cap_def obj_at_def state_defs live_def hyp_live_def
-                         arch_live_def arch_tcb_live_def)
+   apply (rule conjI)
+    apply (clarsimp simp: if_live_then_nonz_cap_def obj_at_def state_defs)
+    apply (rule conjI)
+     apply (rule impI)
+     apply (erule exE)
+     apply (rule conjI)
+      apply (rule impI)
+      apply (subgoal_tac "pptr_base + 0xC000 + (UCAST(irq_len \<rightarrow> machine_word_len) irq << cte_level_bits) \<noteq> ptr")
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchKernelInit_AI.thy]: The 0xC000 magic number occurrence looks new. Do we have a symbolic name for `pptr_base + 0xC000`? The ucast makes it look like this would be `irq_init_node` or something like that.

Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchKernelInit_AI.thy]: (two more below)

File: proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy [hunk 62]
```diff
@@ -20,24 +20,33 @@ named_theorems Syscall_AI_assms
...
-  for caps[wp,Syscall_AI_assms]: "\<lambda>s. P (caps_of_state s)"
+  for cur_thread[wp, Syscall_AI_assms]: "\<lambda>s. P (cur_thread s)"
+
 crunch handle_arch_fault_reply, arch_get_sanitise_register_info
-  for cur_thread[wp,Syscall_AI_assms]: "\<lambda>s. P (cur_thread s)"
+  for valid_objs[wp, Syscall_AI_assms]: valid_objs
+
 crunch handle_arch_fault_reply, arch_get_sanitise_register_info
-  for valid_objs[wp,Syscall_AI_assms]: "valid_objs"
+ for valid_mdb[wp,Syscall_AI_assms]: valid_mdb
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchSyscall_AI.thy]:
```suggestion
 for valid_mdb[wp, Syscall_AI_assms]: valid_mdb
```
(the others all nicely have the space)

File: proof/invariant-abstract/AARCH64/ArchTcb_AI.thy [hunk 63]
```diff
@@ -232,83 +242,217 @@ lemma as_user_ipc_tcb_cap_valid4[wp]:
...
+  "is_valid_vtable_root cap \<Longrightarrow> is_cnode_or_valid_arch cap"
+  by (auto simp: is_cnode_or_valid_arch_def is_valid_vtable_root_def is_cap_simps
+           split: cap.splits arch_cap.splits option.splits pt_type.splits)
+
+lemma install_tcb_frame_cap_invs:
+  "\<lbrace>invs and
+    (\<lambda>s. \<forall>new_cap src_slot.
+       buffer = Some (new_cap, src_slot)
+         \<longrightarrow> (\<forall>a aa b.
+                    src_slot = Some (a, aa, b) \<longrightarrow>
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchTcb_AI.thy]: This should get better namesm not `a, aa, b`. In fact, they should only be `(cap, slot)`, not split further.

**Review by lsf37 — APPROVED** [review]
A few small things to fix up, but well done on getting all of this done in such a short time. If I think back to how long AInvs took the first time around, this is lightening speed :-)

File: proof/invariant-abstract/AARCH64/ArchAcc_AI.thy (hunk 4 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchAcc_AI.thy]: Sorry for late reply and I haven't thought about the specific proofs you two were talking about, but `crunch` actually does call `wps`, so in theory that shouldn't be a blocker to combining them.

File: proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy (hunk 17 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchEmptyFail_AI.thy:204]: >> It seems as though `crunch` won't provide a yellow warning when it's crunching `empty_fail`.
>
> Corey explained to me that crunch does not warn on "nothing done for this constant" and it would be a lot of work to make it warn in that case.

Just to clarify here, `crunch` prints the warning if there is nothing done for a property, which includes `empty_fail`. It doesn't warn however if there is nothing for a specific combination of property and constant, since maybe the constant was needed for a different property.

Like Raf said, it might be possible to change this but I think it would need a pretty big refactor of how `crunch` is implemented and doesn't feel worth it to me.

File: proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy (hunk 45 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: `eps_of` and `ntfns_of` are defined only in `DetSchedInvs_AI`. Should I move those definitions to ASpec? Or maybe put a FIXME RT: move on these? I could move the `tcbs_of` one now, but it might be best to move them all together

Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: oh, I keep forgetting that this is MCS. Are they the heavy-weight projections for `eps_of` and `ntfns_of`? I guess moving them up is still better, but I don't think we should put them into ASpec. Maybe KHeap_AI since they are generic.

Comment (michaelmcinerney) [reply proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: These are the lightweight `opt_map` style projections (though for compatibility with some of the `pred_map` stuff, they do use `eps_of_kh`, which we dislike). I'll move them to `KHeap_AI` for now, but I'm sure they could be useful in the ASpec, maybe when the `eps_of_kh` stuff has been removed, which could be a while away.

Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchDetSchedAux_AI.thy]: Oh good. And yes, agreed, when they are the standard setup, then it would be time to move them to ASpec.

**Comment by michaelmcinerney** [comment]
Force pushed to update the commit message of the main commit, making it much more detailed. Changes to the diff are in separate commits that I will squash.
